US07405233B2
To the solution of 3-[2-(3-isopropylphenylamino)ethylamino]benzoic acid methyl ester (0.83 g, 2.7 mmol) prepared above in dry 1,2-dichloroethane (5.0 mL) was added, under nitrogen, 1,1′-carbonyldiimidazole (0.65 g, 4.0 mmol). The mixture was then heated at 90° C. for 24 h. After cooling to room temperature, the mixture was washed with water, diluted HCl, water and brine, then dried over anhydrous Na2SO4 and concentrated. The crude product was obtained after the removal of the solvent and further purified by column chromatography (silica gel, hexanes:ethyl acetate, 9:1) to give methyl 3-[3-(3-isopropylphenyl)-2-oxo-imidazolidin-1-yl]benzoate as colorless needles (0.78 g, 85.7%). MS (ES+) m/z: 339.

reactant | 3-[2-(3-isopropylphenylamino)ethylamino]benzoic acid methyl ester | 2.7 mmol, 0.83 g | COC(C1=CC(=CC=C1)NCCNC1=CC(=CC=C1)C(C)C)=O | C19H24N2O2
reactant | 1,1′-carbonyldiimidazole | 4.0 mmol, 0.65 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | 1,2-dichloroethane | 5.0 mL | ClCCCl | C2H4Cl2
product | methyl 3-[3-(3-isopropylphenyl)-2-oxo-imidazolidin-1-yl]benzoate | 0.78 g, 85.7% | C(C)(C)C=1C=C(C=CC1)N1C(N(CC1)C=1C=C(C(=O)OC)C=CC1)=O | C20H22N2O3
